US04238486
To a stirred slurry of lithium aluminum hydride (3.0 gms) in tetrahydrofuran (200 ml) is added trans-4-(p-tolylsulphonyl)-4,6,6a,8,9,10a hexahydro-7H-indolo-[3,4-gh]-[1,4]-benzoxazin-8-one (3.0 gms) in portions over 5 minutes. The resulting mixture is refluxed for 17 hours. The cooled slurry is hydrolyzed with water (6 ml), and the organic phase is separated from the solid inorganics by filtration. The solid is rinsed with ether (3×100 ml). The organic solvents are dried over anhydrous sodium sulfate. After filtration, the solvents are removed under reduced pressure (20 mm). The resulting oil is purified by column chromatography silica; CHCl3 (sat. with NH4OH) to yield 700 mg of trans 4,6,6a,8,9,10a-Hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine; which after recrystalization from methanol gives 540 mg (25%) m.p. 175°-177° C. with previous softening.

reactant | lithium aluminum hydride | 3.0 gms | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-4-(p-tolylsulphonyl)-4,6,6a,8,9,10a hexahydro-7H-indolo-[3,4-gh]-[1,4]-benzoxazin-8-one | 3.0 gms | C1(=CC=C(C=C1)S(=O)(=O)N1C=C2C3=C([C@@H]4[C@H](NC(CO4)=O)C2)C=CC=C13)C | C20H18N2O4S
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | trans 4,6,6a,8,9,10a-Hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine | 700 mg | C1=CC=C2NC=C3C2=C1[C@@H]1[C@H](NCCO1)C3 | C13H14N2O
